US05385692
Then, 1140 ml of tetrahydrofuran (THF) was placed in a 3 liter-reaction vessel. Under stirring, 361.4 g (2.7M) of anhydrous aluminum chloride was added to the above THF in 25 minutes below 20° C. To the mixture, 34.3 g (9.03×10-1M) of lithium aluminum hydride was added in 10 minutes below 20° C. Further, to the resultant mixture, a solution of 100 g (4.1×10-1M) of the above-prepared 2-octyl-1-indanone in 430 ml of THF was added dropwise in 40 minutes below 5° C., followed by stirring for 30 minutes below 5° C., and heat-refluxing for 1 hour. After the reaction, the reaction mixture was cooled and washed with ethyl acetate and water in this order to decompose the 2-octyl-1-indanone. The resultant reaction mixture was poured into 2 liters of ice water and subjected to extraction with ethyl acetate, followed by washing with saturated aqueous solution of common salt, drying with anhydrous magnesium sulfate and distilling-off of the solvent to obtain 93.0 g of 2-octylindan.

reactant | aluminum chloride | 2.7M, 361.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 9.03×10-1M, 34.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-octyl-1-indanone | 4.1×10-1M, 100 g | C(CCCCCCC)C1C(C2=CC=CC=C2C1)=O | C17H24O
solvent | THF | 430 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1140 ml | O1CCCC1 | C4H8O
product | 2-octylindan | 93.0 g | C(CCCCCCC)C1CC2=CC=CC=C2C1 | C17H26
